US04451484
Under a dry nitrogen atmosphere a stirred mixture of 8-chloro-6,7-dihydro-5H-dibenzo[a,c]cycloheptene-5-one (2.6 grams, 0.011 mole), 85% hydrazine hydrate (5 ml, 0.1 mole), potassium hydroxide (4 grams, 0.071 mole) and ethylene glycol (30 ml) was heated at reflux for 1.5 hours. Sufficient volatiles were removed by distillation to increase the pot temperature to 200° while maintaining reflux. The two-phase reaction mixture was refluxed at that temperature for three hours. The mixture was cooled, poured into ice water, and the resultant mixture extracted with diethyl ether. The extract was washed with water, dried over anhydrous magnesium sulfate, and filtered. The filtrate was evaporated under reduced pressure to give a yellow oil. The oil was purified by distillation to give 4-chloro-6,7-dihydro-5H-dibenzo[a,c]cycloheptene (bp 119°-126°/0.15 mm). Under a dry nitrogen atmosphere a mixture of 4-chloro-6,7-dihydro-5e,uns/H/ -dibenzo[a,c]cycloheptene (1.6 grams, 0.007 mole), cuprous cyanide (0.95 gram, 0.011 mole), and pyridine (0.8 gram, 0.01 mole) was stirred and heated at 195° for approximately 16 hours. The mixture was cooled, dissolved in methylene chloride (150 ml), and the resultant solution was washed with three 70 ml portions of concentrated ammonium hydroxide. The organic phase was dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated under reduced pressure to give a brown solid. Recrystallization from n-hexane gave 6,7-dihydro-5e,uns/H/ -dibenzo[a,c]cycloheptene-4-carbonitrile (mp 109°-111°).

reactant | dibenzo[a,c]cycloheptene | 0.007 mole, 1.6 grams | C1C=CC=C2C1=C1C(=CC=C2)C=CC=C1 | C15H12
reactant | pyridine | 0.01 mole, 0.8 gram | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | dibenzo[a,c]cycloheptene-4-carbonitrile | C1C=CC(=C2C1=C1C(=CC=C2)C=CC=C1)C#N | C16H11N
